US08420642B2
5-Chloro-2-nitro-pyridine-3-ol (5.7 mmol) is dissolved in THF (35 ml) and triphenylphosphin (2 eq.) and cyclopentylmethanol (1 eq.) is added at 0° C. After addition of di-tert.-butylazodicarboxylate (1.5 eq) in THF (10 ml), the reaction is stirred five hours at 0° C. The solvent is removed in vacuo. 5-Chloro-3-cyclopentylmethoxy-2-nitro-pyridine is obtained after column chromatography (heptane/ethylacetate) as yellow solid in a yield of 74%. HPLC (method C): 2.23 min; LC-MS (method A): 2.27 min, 257.05 (MH+).

reactant | 5-Chloro-2-nitro-pyridine-3-ol | 5.7 mmol | ClC=1C=C(C(=NC1)[N+](=O)[O-])O | C5H3ClN2O3
reactant | triphenylphosphin | 2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentylmethanol | 1 eq. | C1(CCCC1)CO | C6H12O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-cyclopentylmethoxy-2-nitro-pyridine | yield of 74% | ClC=1C=C(C(=NC1)[N+](=O)[O-])OCC1CCCC1 | C11H13ClN2O3
